US05473071
A mixture of 3.36 g (1.0 eq) of 4-(4-carbomethoxyphenyl)butanal, 1.29 g (1.2 eq) of malononitrile, 0.05 g of D,L-alanine, 1 mL of glacial acetic acid, and 60 mL of benzene is refluxed with azeotropic removal of water. After 3 hours, about 85% of the theoretical amount of water should be formed and removed. The mixture then is cooled to room temperature and poured into water. The aqueous layer is extracted twice with benzene and the combined organic layers are dried over sodium sulfate, filtered and concentrated under reduced pressure. Chromatography with 1:1 ethyl acetate:hexanes and concentration of the eluant yield methyl 4-(5,5-dicyanopentyl)benzoate as an oil. IR (film) max ν max 2240, 1718, 1615, 1280, and 1110 cm-1 ; 1H NMR (CDCl3) delta 7.99 (d, J=8.1 Hz, 2H, Ar), 7.24-7.29 (m, 3H, Ar, vinyl), 3.90 (s, 3H, --CH3), 2.79 (t, J=7.4 Hz, 2H, benzyl), 2.60-2.64 (m, 2H, --CH2C=C), 1.94-1.97 (m, 2H, --CH2 --).

reactant | 4-(4-carbomethoxyphenyl)butanal | 3.36 g, 1.0 eq | C(=O)(OC)C1=CC=C(C=C1)CCCC=O | C12H14O3
reactant | malononitrile | 1.29 g, 1.2 eq | C(CC#N)#N | C3H2N2
reactant | D,L-alanine | 0.05 g | NC(C)C(=O)O | C3H7NO2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | methyl 4-(5,5-dicyanopentyl)benzoate | C(#N)C(CCCCC1=CC=C(C(=O)OC)C=C1)C#N | C15H16N2O2
